US09328124B2
1-[(4-Methoxyphenyl)methyl]-6a-(3-pyridyl)-3a,4,5,6-tetrahydro-3H-pyrrolo[3,4-c]isoxazole
To a stirred solution of tert-butyl 1-[(4-methoxyphenyl)methyl]-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate (2.9 g, 7.05 mmol) in dichloromethane (80 mL) is added trifluoroacetic acid (16 mL). The reaction mixture is stirred for 1 hour 30 minutes at room temperature. The solvent is concentrated and the residue is partitioned between saturated aqueous sodium bicarbonate (30 mL) and dichloromethane (100 mL). The resulting solution is stirred for 30 minutes then the phases are separated. The aqueous phase is re-extracted with dichloromethane. The combined dichloromethane extracts are dried over magnesium sulfate, filtered, and concentrated under vacuum to give a residue. The residue is purified by silica gel chromatography using a 0-10% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (1.33 g, 43%). ES/MS (m/e): 312 (M+1).

reactant | tert-butyl 1-[(4-methoxyphenyl)methyl]-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 7.05 mmol, 2.9 g | COC1=CC=C(C=C1)CN1OCC2C1(CN(C2)C(=O)OC(C)(C)C)C=2C=NC=CC2 | C23H29N3O4
reactant | trifluoroacetic acid | 16 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1-[(4-Methoxyphenyl)methyl]-6a-(3-pyridyl)-3a,4,5,6-tetrahydro-3H-pyrrolo[3,4-c]isoxazole | 1.33 g, 43% | COC1=CC=C(C=C1)CN1OCC2C1(CNC2)C=2C=NC=CC2 | C18H21N3O2
